* Extracted subcircuit for INVx2
* Magic layout extraction parasitics from INVx2.ext
* Devices: 2 (nmos_lvt, pmos_lvt)
* Total extracted node cap: 3.8 fF
*
* INVx2 - ASAP5 5nm GAA Nanosheet Inverter, 2x drive strength
* Cell: 44nm x 140nm (1 CPP)
* Process: ASAP5 GAA, Lg=16nm, CPP=44nm, VDD=0.7V
* Model: BSIM-CMG level=72 version=107

.subckt INVx2 A Y VDD VSS
mn1 Y A VSS VSS nmos_lvt l=16n w=64n
mp1 Y A VDD VDD pmos_lvt l=16n w=64n
* --- Extracted parasitic capacitances ---
Cext_Y Y 0 1.3472f
Cext_A A 0 0.3079f
.ends INVx2
