* Extracted subcircuit for INVx4
* Magic layout extraction parasitics from INVx4.ext
* Devices: 2 (nmos_lvt, pmos_lvt)
* Total extracted node cap: 4.0 fF
*
* INVx4 - ASAP5 5nm GAA Nanosheet Inverter, 4x drive strength
* Cell: 44nm x 140nm (1 CPP)
* Process: ASAP5 GAA, Lg=16nm, CPP=44nm, VDD=0.7V
* Model: BSIM-CMG level=72 version=107

.subckt INVx4 A Y VDD VSS
mn1 Y A VSS VSS nmos_lvt l=16n w=128n
mp1 Y A VDD VDD pmos_lvt l=16n w=128n
* --- Extracted parasitic capacitances ---
Cext_Y Y 0 1.3993f
Cext_A A 0 0.3198f
.ends INVx4
