* Extracted subcircuit for OAI21x1
* Magic layout extraction parasitics from OAI21x1.ext
* Devices: 0 ()
* Total extracted node cap: 7.9 fF
*
.subckt OAI21x1 A0 A1 B Y VDD VSS
mn_a0 mid_n A0 VSS   VSS nmos_lvt l=16n w=32n
mn_a1 mid_n A1 VSS   VSS nmos_lvt l=16n w=32n
mn_b  Y    B  mid_n VSS nmos_lvt l=16n w=32n
mp_a0 Y    A0 mid_p VDD pmos_lvt l=16n w=32n
mp_a1 mid_p A1 VDD   VDD pmos_lvt l=16n w=32n
mp_b  Y    B  VDD   VDD pmos_lvt l=16n w=32n
* --- Extracted parasitic capacitances ---
Cext_Y Y 0 2.7790f
Cext_A0 A0 0 0.6352f
Cext_A1 A1 0 0.6352f
Cext_B B 0 0.6352f
Cext_mid_n mid_n 0 0.9528f
Cext_mid_p mid_p 0 0.9528f
.ends
